US04075346
A mixture of 16.2 g of magnesium turnings, 67.5 g of anhydrous ethanol and 5 ml of carbon tetrachloride was allowed to react on standing for several minutes. After the exothermic reaction had subsided, 500 ml of anhydrous toluene was slowly added under stirring, and the resulting mixture was stirred at 35°-40° C for an additional 2 hours. To the resulting mixture, a solution of α-acetyl-γ-butyro lactone (170.8 g) in anhydrous toluene (200 ml) was added thereto dropwise under cooling below 10° C, and the resultant mixture was stirred at room temperature for 1 hour. A solution of o-nitrobenzoyl chloride, prepared from 100 g of the corresponding acid, in anhydrous toluene (200 ml) was added thereto dropwise at 20°-25° C, and stirring was carried out for an additional 2 hours. Under cooling, 1.4 liters of 5% sulfuric acid was slowly added to the resulting mixture, and the whole was extracted with ethyl acetate (900 ml). The aqueous layer was extracted with two portions of toluene-ethyl acetate (1:1), and the combined extracts were washed with water and aqueous saturated sodium chloride solution and extracted with three portions of cold 5% aqueous ammonium hydroxide solution (840 g × 3). The combined aqueous layer was washed with toluene and acidified with 25% sulfuric acid under cooling. The precipitated crystals were collected by filtration, washed with water and dried to give 120 g (85%) of α-(2-nitrobenzoyl)-γ-butyrolactone. M.P. 75°-76° C.

reactant | magnesium | 16.2 g | [Mg] | Mg
reactant | α-acetyl-γ-butyro lactone | 170.8 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
reactant | o-nitrobenzoyl chloride | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | sulfuric acid | 1.4 liters | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 67.5 g | C(C)O | C2H6O
product | α-(2-nitrobenzoyl)-γ-butyrolactone | 120 g, 85% | [N+](=O)([O-])C1=C(C(=O)C2C(=O)OCC2)C=CC=C1 | C11H9NO5
